US09278983B2
To a mixture of methyl-(5-pentafluoroethyl-pyridine-2-yl)-amine (4.6 g) and acetonitrile (70 mL), N-bromosuccinimide (5.0 g) was added under ice-cooling, and stirred at room temperature for 8 hours. Into a mixture, saturated aqueous sodium thiosulfate solution and aqueous sodium, hydrogen carbonate solution were poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 6.3 g of (3-bromo-5-pentafluoroethyl-pyridine-2-yl)-methyl-amine.

reactant | methyl-(5-pentafluoroethyl-pyridine-2-yl)-amine | 4.6 g | CNC1=NC=C(C=C1)C(C(F)(F)F)(F)F | C8H7F5N2
reactant | N-bromosuccinimide | 5.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium | [Na] | Na
reactant | hydrogen carbonate | C(O)([O-])=O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | (3-bromo-5-pentafluoroethyl-pyridine-2-yl)-methyl-amine | 6.3 g | BrC=1C(=NC=C(C1)C(C(F)(F)F)(F)F)NC | C8H6BrF5N2
